US07045516B1
(a) 4-Chloro-2-methoxyphenol
2-Methoxyphenol (5.0 g), 2-aminopyridine (0.3 g), and thionyl chloride (3.24 mL) were stirred at 70° C. in toluene (100 mL) for 19 hours. The reaction mixture was cooled to room temperature, and then the solvent was evaporated under reduced pressure to obtain the title compound as an oil (6.6 g).

reactant | 2-Methoxyphenol | 5.0 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | 2-aminopyridine | 0.3 g | NC1=NC=CC=C1 | C5H6N2
reactant | thionyl chloride | 3.24 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-2-methoxyphenol | 6.6 g | ClC1=CC(=C(C=C1)O)OC | C7H7ClO2
